US05686424
A solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (59 mg, 0.16 mmol), 4-N,N-dimethylaminopyridine (7.9 mg, 0.06 mmol, 0.4 eq), 1,3-dicyclohexylcarbodiimide (49 mg, 0.23 mmol, 1.5 eq) in dichloromethane (5.0 mL) was treated with (±) 1-phenyl-1-propanol (28 uL, 0.20 mmol, 1.3 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 32 mg (41%) of L-isoleucine, N-[1-(2-(1-phenylpropoxy)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.16 mmol, 59 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.23 mmol, 49 mg, 1.5 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±) 1-phenyl-1-propanol | 0.20 mmol, 28 uL, 1.3 eq | C1(=CC=CC=C1)C(CC)O | C9H12O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-(1-phenylpropoxy)-2-oxoethyl)-L-prolyl] benzylamide | 32 mg, 41% | C1(=CC=CC=C1)C(CC)OC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C29H39N3O4
